US09303028B2
Step 1. 2-(3-(3-chloropyrazin-2-yl)azetidin-1-yl)quinazoline
2-(Azetidin-3-yl)-3-chloropyrazine hydrochloride (1.50 g, 7.28 mmol), 2-chloroquinazoline (1.20 g, 7.28 mmol, Parkway Scientific), and cesium carbonate (5.22 g, 16.0 mmol, Fluka) were mixed in DMF (30 mL) in a round bottom flask under a nitrogen atmosphere. The mixture was stirred at 110° C. for 17 h. The reaction mixture was cooled to room temperature, diluted with water, and extracted with EtOAc (2×). The combined organic extracts were washed with saturated sodium chloride, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting crude mixture was purified via silica gel flash column chromatography eluting with 0% to 100% EtOAc in hexanes to give 1.02 g (47%) of a yellow amorphous solid. 1H NMR (400 MHz, chloroFORM-d) δ ppm 4.41-4.50 (m, 1 H) 4.58-4.63 (m, 2 H) 4.65-4.72 (m, 2 H) 7.22-7.28 (m, 1 H) 7.61-7.72 (m, 3 H) 8.28 (d, J=2.35 Hz, 1 H) 8.51 (d, J=2.35 Hz, 1 H) 9.04 (s, 1 H). m/z=298 (M+1).

reactant | 2-(Azetidin-3-yl)-3-chloropyrazine hydrochloride | 7.28 mmol, 1.50 g | Cl.N1CC(C1)C1=NC=CN=C1Cl
reactant | 2-chloroquinazoline | 7.28 mmol, 1.20 g | ClC1=NC2=CC=CC=C2C=N1 | C8H5ClN2
reactant | cesium carbonate | 16.0 mmol, 5.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3-(3-chloropyrazin-2-yl)azetidin-1-yl)quinazoline | 1.02 g, 47% | ClC=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=N1 | C15H12ClN5
